US08026234B2
Compound 76: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-cyclopropyl-3-methoxybenzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and cyclopropylamine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.50-0.61 (m, 2H) 0.70 (dd, J=7.07, 2.27 Hz, 2H) 1.31-1.48 (m, 2H) 1.51-1.70 (m, 4H) 1.71-1.91 (m, 4H) 2.81 (dt, J=7.14, 3.63 Hz, 1H) 3.17 (s, 3H) 3.93 (s, 3H) 4.03 (q, J=7.07 Hz, 2H) 4.46 (t, J=11.62 Hz, 1H) 7.40-7.55 (m, 2H) 7.90 (s, 1H) 8.21 (s, 1H) 8.26 (d, J=8.34 Hz, 1H) 8.37 (d, J=3.79 Hz, 1H). [M+H] C25H30F2N6O3 calc'd for, 501. found 501.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-cyclopropyl-3-methoxybenzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CC1)C=C2)OC | C25H30F2N6O3
